US09193693B2
Step 2. 3-(4-(4-Chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(4-(4-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate (146.2 mg, 0.32 mmol, 1.00 equiv) in MeOH/THF (1:1)(16 mL), a solution of sodium hydroxide (64 mg, 1.60 mmol, 5.00 equiv) in water (1.5 mL). The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. The solid was dissolved in DMF and sent for prep-HPLC to purification. This resulted in 49 mg (35%) of 3-(4-(4-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-(4-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.32 mmol, 146.2 mg, 1.00 equiv | ClC1=CC=C(C=C1)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C27H24ClN3O2
reactant | sodium hydroxide | 1.60 mmol, 64 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | MeOH THF | 16 mL | CO.C1CCOC1
solvent | water | 1.5 mL | O | H2O
product | 3-(4-(4-Chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | ClC1=CC=C(C=C1)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C26H22ClN3O2
